* C:\Users\User\Documents\Projects\Electronics Simulations\Ltspice\Inverter\inverter.asc
V1 R 0 SINE(0 377 60 0 0 0)
V2 S 0 SINE(0 377 60 0 0 120)
V3 T 0 SINE(0 377 60 0 0 -120)
D1 R VBus+ VS-E5PH7506
D2 Vbus- R VS-E5PH7506
D3 S VBus+ VS-E5PH7506
D4 Vbus- S VS-E5PH7506
D5 T VBus+ VS-E5PH7506
D6 Vbus- T VS-E5PH7506
C1 VBus+ V0 500µ
C2 V0 Vbus- 500µ
.model D D
.lib C:\Users\User\Documents\LTspiceXVII\lib\cmp\standard.dio
.param f_motor=47
.param f_carrier=10K
.param Amod=0.9
.param motor_L=20m
.param motor_R=500m
.param motor_V=397
.tran 100m
.plot v(VBus+) - v(VBus-)
.ic v(C1) = 200
.ic v(C2) = 200
.backanno
.end
